US05977178
(2-tert Butoxycarbonylamino-2-methylpropoxy)acetic acid (0.5 g; 2.06 mmol) was dissolved in methylene chloride (10 mL). 1-Hydroxy-7-azabenzotriazole (0.2 g; 1.51 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.30 g; 1.58 mmol) were added. The reaction mixture was stirred for 15 min at room temperature. (2R)-N-Methyl-2-methylamino-3-(2-naphthyl)-N-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)propionamide (0.65 g; 1.37 mmol) and diisopropylethylamine (0.26 mL; 1.51 mmol) were added and the reaction mixture was stirred for 12 hours at room temperature. Methylene chloride (100 mL) was added. The reaction mixture was washed with an aqueous solution of sodium hydrogen sulfate (10%; 50 mL), an aqueous solution of sodium hydrogen carbonate (sat; 50 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was filtered through silica to afford 0.76 g of (1,1-dimethyl-2-((N-methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((tetrahydrofuran-2-ylmethyl)carbamoyl)ethyl)-carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)methoxy)ethyl)carbamic acid tert-butyl ester.

reactant | (2-tert Butoxycarbonylamino-2-methylpropoxy)acetic acid | 2.06 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC(COCC(=O)O)(C)C | C11H21NO5
reactant | 1-Hydroxy-7-azabenzotriazole | 1.51 mmol, 0.2 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.58 mmol, 0.30 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-methylamino-3-(2-naphthyl)-N-((1R)-2-phenyl-1-(((tetrahydrofuran-2-yl)methyl)carbamoyl)ethyl)propionamide | 1.37 mmol, 0.65 g | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC1=CC=CC=C1)C(NCC1OCCC1)=O | C29H35N3O3
reactant | diisopropylethylamine | 1.51 mmol, 0.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (1,1-dimethyl-2-((N-methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((tetrahydrofuran-2-ylmethyl)carbamoyl)ethyl)-carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)methoxy)ethyl)carbamic acid tert-butyl ester | 0.76 g | C(C)(C)(C)OC(NC(COCC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NCC1OCCC1)=O)C)=O)C)=O)(C)C)=O | C40H54N4O7
